US06500818B1
(e) 2-Methoxy-3-cyano-1-naphthoic acid
A solution of methyl 2-methoxy-3-cyano-1-naphthoate (0.113 g) and LiOH.H2O (0.0196 g) THF (3 mL), water (1 mL) and methanol (1 mL) was stirred overnight at room temperature. The solution was diluted with saturated sodium bicarbonate and extracted with Et2O. The aqueous layer was acidified to pH 2 by addition of 1N HCl and extracted with Et2O. The organic layer was washed with water (30 mL) and brine (40 mL), dried (sodium sulfate), filtered, and concentrated to a white solid. 1H NMR (DMSO-d6): δ14.06 (broad, 1 H), 8.08-8.02 (m, 1 H), 7.83-7.76 (m, 2 H), 7.69-7.63 (m, 1 H), 4.02 (s, 3 H); MS m/z: 226 (M−1).

reactant | methyl 2-methoxy-3-cyano-1-naphthoate | 0.113 g | COC1=C(C2=CC=CC=C2C=C1C#N)C(=O)OC | C14H11NO3
reactant | LiOH.H2O | 3 mL, 0.0196 g | O[Li].O
reactant | water | 1 mL | O | H2O
reactant | methanol | 1 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Methoxy-3-cyano-1-naphthoic acid | COC1=C(C2=CC=CC=C2C=C1C#N)C(=O)O | C13H9NO3
